US05698560
According to a similar manner as that in Reference Example 78 except that 4-cyanophenol, 1-bromo-3-chloropropane, and morpholine were used, 4-(3-morpholinopropoxy)benzonitrile (quantitative) was obtained as a crude product.

reactant | 4-cyanophenol | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-(3-morpholinopropoxy)benzonitrile | O1CCN(CC1)CCCOC1=CC=C(C#N)C=C1 | C14H18N2O2
